US04985582
A mixture of 3-t-butyl-3-iodomethyl-(1,5-dioxaspiro[5,5]undecane) (3.5 g.), p-toluenesulphonic acid (0.5 g.) and acetone (200 ml.) was refluxed for 36 hours. The mixture was cooled and sodium hydrogen carbonate (2.0 g.) was added. The solvent was removed in vacuo and the resulting oil was poured into water. The aqueous mixture was extracted with diethyl ether. The ethereal extracts were washed with water, dried over anhydrous magnesium sulphate and then evaporated in vacuo. 5-t-Butyl-2,2-dimethyl-5-iodomethyl-1,3-dioxane was obtained as a colourless oil (2.3 g.) and was used without further purification.

reactant | 3-t-butyl-3-iodomethyl-(1,5-dioxaspiro[5,5]undecane) | 3.5 g | C(C)(C)(C)C1(COC2(OC1)CCCCC2)CI | C14H25IO2
reactant | p-toluenesulphonic acid | 0.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium hydrogen carbonate | 2.0 g | C(O)([O-])=O.[Na+]
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | 5-t-Butyl-2,2-dimethyl-5-iodomethyl-1,3-dioxane | C(C)(C)(C)C1(COC(OC1)(C)C)CI | C11H21IO2
